US04863942
In the course of 5 minutes 3.0 g of boron tribromide are added dropwise to a solution, cooled to -78° C., of 2.2 g of N-{3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-phenyl}-oxamic acid ethyl ester in 20 ml of methylene chloride. The whole is then stirred for 6 hours at room temperature. While cooling, 5 ml of water are added and the organic phase is separated off and concentrated by evaporation under reduced pressure. After recrystallisation from methylene chloride/ether there is obtained N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-phenyl}-oxamic acid ethyl ester, which can be characterised by hydrolysis to form the free acid having a melting point of 159°-160°.

reactant | boron tribromide | 3.0 g | B(Br)(Br)Br | BBr3
reactant | N-{3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-phenyl}-oxamic acid ethyl ester | 2.2 g | C(C)OC(C(=O)NC1=CC(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)OC)CCC)=O | C25H31NO7
reactant | water | 5 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-phenyl}-oxamic acid ethyl ester | C(C)OC(C(=O)NC1=CC(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C24H29NO7
